US08497271B2
Part B. [(R)-1-(4-Benzyloxy-phenyl)-2-hydroxy-ethyl]-carbamic acid t-butyl ester
To a solution of t-butyl carbamate (3.65 g, 30.5 mmol) in n-propanol (40 ml) was added the solution of sodium hydroxide (1.26 g, 30.5 mmol) in water (75 ml), then added t-butyl hypochloride (3.5 ml, 30.5 mmol), made freshly (Org. Syn. 184) in a light-off hood. The mixture was stirred for 5 minutes at room temperature. This reaction mixture was then placed in an ice-bath, (DHQD)2PHAL (0.492 g, 0.6 mmol) in n-propanol (40 ml) and 1-Benzyloxy-4-vinyl-benzene (2.10 g, 10 mmol) in n-propanol (70 ml) were added sequentially, stirred for 6 minutes. K2OsO2 2H2O (0.147 g, 0.4 mmol) was added directly at 0° C. The final reaction mixture was stirred for 1.5 hrs to generate a light yellow clear solution. A saturated solution of sodium sulfite (100 ml) was added to quench the reaction at 0° C. Excessive n-propanol was removed in a high vacuum. The aqueous phase was extracted by ethyl acetate (3×30 ml). The combined organic layers were washed with brine (2×30 ml), then dried over MgSO4, filtered and concentrated to give a yellow crude solid. The crude product was purified via column chromatography on silica gel with a gradient of 0%-100% of ethyl acetate in hexanes to afford a white solid (2.01 g, 59% yield, about 13% of regio-isomer): 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.39 (m, 5H), 7.23 (d, J=8.8 Hz, 2H), 6.98 (d, J=8.6 Hz, 2H), 5.15 (d, J=5.6 Hz, 1H), 5.07 (s, 2H), 4.74 (d, J=1.0 Hz, 1H), 3.84 (t, J=5.3 Hz, 2H), 2.37 (br. s., 1H), 1.42 (m, 9H); LCMS (ESI) m/e 344.2 [(M+H), calcd for C20H26NO4 344.4].

reactant | t-butyl carbamate | 30.5 mmol, 3.65 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | sodium hydroxide | 30.5 mmol, 1.26 g | [OH-].[Na+]
reactant | t-butyl hypochloride | 30.5 mmol, 3.5 ml | ClOC(C)(C)C | C4H9ClO
reactant | (DHQD)2PHAL | 0.6 mmol, 0.492 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | 1-Benzyloxy-4-vinyl-benzene | 10 mmol, 2.10 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=C | C15H14O
reactant | sodium sulfite | 100 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | n-propanol | 40 ml | C(CC)O | C3H8O
solvent | water | 75 ml | O | H2O
solvent | n-propanol | 40 ml | C(CC)O | C3H8O
solvent | n-propanol | 70 ml | C(CC)O | C3H8O
product | [(R)-1-(4-Benzyloxy-phenyl)-2-hydroxy-ethyl]-carbamic acid t-butyl ester | 59% yield | C(C)(C)(C)OC(N[C@@H](CO)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C20H25NO4
